US06291511B1
To an ice cooled solution of 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid (124 mg, 0.42 mmol) in methanol (0.5 mL) was added dropwise thionyl chloride (150 μL, 2.0 mmol). Methanol (1 mL) was added and the reaction mixture was heated to reflux for 2 hr. After cooling, the mixture was filtered and the filtrate concentrated by rotoevaporation to yield 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester hydrochloride (116 mg, 82% yield).

reactant | 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid | 0.42 mmol, 124 mg | N[C@H](C(=O)O)[C@H](C)C1=CC=C(C=C1)I | C10H12INO2
reactant | thionyl chloride | 2.0 mmol, 150 μL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 0.5 mL | CO | CH4O
reactant | Methanol | 1 mL | CO | CH4O
product | 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester hydrochloride | 116 mg, 82% yield | Cl.N[C@H](C(=O)OC)[C@H](C)C1=CC=C(C=C1)I | InChI=1S/C11H14INO2.ClH/c1-7(10(13)11(14)15-2)8-3-5-9(12)6-4-8;/h3-7,10H,13H2,1-2H3;1H/t7-,10+;/m1./s1
